US06706924B2
Synthesis of 4-(2-aminophenyl)butyronitrile
450 mg of 4-(2-nitrophenyl)butyronitrile, dissolved in 12.5 ml of methanol, are added dropwise to a mixture of 412 mg of iron powder (7.5 mmol) and 663 mg of ammonium chloride (12.5 mmol) in 12.5 ml of water at room temperature and under protective gas in a 100 ml glass round-bottomed flask. The mixture is heated for 5 hours with reflux. 25 ml of water are added to the cooled mixture and extraction is performed with toluene. The combined toluene phases are dried and the solvent distilled off under reduced pressure. The residue is purified by column chromatography on silica gel (eluent toluene/ethyl acetate 10:1 v/v). Yield: 276 mg (1.73 mmol, 72%).

reactant | 4-(2-nitrophenyl)butyronitrile | 450 mg | [N+](=O)([O-])C1=C(C=CC=C1)CCCC#N | C10H10N2O2
reactant | ammonium chloride | 12.5 mmol, 663 mg | [Cl-].[NH4+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 12.5 ml | CO | CH4O
solvent | water | 12.5 ml | O | H2O
catalyst | iron | 7.5 mmol, 412 mg | [Fe] | Fe
solvent | water | 25 ml | O | H2O
product | 4-(2-aminophenyl)butyronitrile | NC1=C(C=CC=C1)CCCC#N | C10H12N2
